US08981085B2
A mixture of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methyloxazole-4-carboxamide (160 mg, 0.472 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (378 mg, 1.89 mmol) in n-BuOH (3 mL) was stirred at 160° C. in a sealed tube. The mixture was allowed to cool to room temperature and concentrated in vacuo. The residue was dissolved in MeOH (1 mL) and purified by C-18 reverse phase flash chromatography (Biotage Flash 25 M+) on SP4 unit eluting with 10-85% CH3CN/water gradient (25 CV) to provide (R)-tert-butyl 1-(5-bromo-3-(2-methyloxazole-4-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate as a solid. This material was treated with neat TFA (3 mL), and after 30 minutes the mixture was concentrated in vacuo. The residue obtained was dissolved in few drops of CH2Cl2 and treated with 2M HCl in ether (3 mL). The solid formed was filtered, washed with additional Et2O and dried under high vacuum to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methyloxazole-4-carboxamide hydrochloride (23 mg, 12% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.85 (s, 1H), 10.41 (s, 1H), 8.68 (s, 1H), 8.30 (s, 1H), 8.27 (br s, 3H), 8.02 (s, 1H), 4.01-3.99 (m, 1H), 3.69-3.63 (m, 1H), 3.60-3.52 (m, 1H), 3.36-3.29 (m, 1H), 3.06-2.99 (m, 1H), 2.58 (s, 3H), 2.34-2.25 (m, 2H), 1.89-1.82 (m, 1H), 1.59-1.51 (m, 1H); LCMS (APCI+) m/z 419, 421 (M+H)+, Retention time=2.44 minutes (Method 2).

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methyloxazole-4-carboxamide | 0.472 mmol, 160 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C=2N=C(OC2)C)F | C12H8BrFN4O2
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.89 mmol, 378 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(2-methyloxazole-4-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C=2N=C(OC2)C)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C22H27BrN6O4
